US09238640B2
A solution of ethyl 4-(4-acetamidopiperidin-1-yl)benzoate (0.123 g, 0.42 mmol) in CH2Cl2 (10 mL) under nitrogen at −78° C. was treated with DIBAL-H (1.0M in hexanes, 0.950 mL, 0.95 mmol) dropwise, via a syringe. After 20 minutes, the mixture was warmed to room temperature, stirred for 1 hour, and quenched with 10% Rochelle's salt. After stirring for 10 minutes, CH2Cl2 (50 mL) was added, and the stirring was continued for 15 additional minutes. The layers were separated and the aqueous phase was extracted with CH2Cl2 (50 mL) and ethyl acetate (50 mL). The combined organic phases were dried (MgSO4), filtered, concentrated, and purified by flash chromatography on silica gel, eluting with 100% ethyl acetate to 10% MeOH/ethyl acetate to afford N-(1-(4-(hydroxymethyl)phenyl)piperidin-4-yl)acetamide as a white solid (0.025 g, 24%).

reactant | ethyl 4-(4-acetamidopiperidin-1-yl)benzoate | 0.42 mmol, 0.123 g | C(C)(=O)NC1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C16H22N2O3
reactant | DIBAL-H | 0.95 mmol, 1.0M, 0.950 mL | CC(C)C[AlH]CC(C)C
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(1-(4-(hydroxymethyl)phenyl)piperidin-4-yl)acetamide | 0.025 g, 24% | OCC1=CC=C(C=C1)N1CCC(CC1)NC(C)=O | C14H20N2O2
